US07608603B2
To (S)-phosphoric acid 2-[3-(2-chloro-phenyl)-6-(2,4-difluoro-phenoxy)-1H-pyrazolo[3,4-d]pyrimidin-4-ylamino]-1-methyl-ethyl ester dimethyl ester (3.1 g, 5.74 mmol) in 35 mL methylene chloride was added trimethylsilyl bromide (2.97 mL, excess) The reaction mixture was stirred for four hours at room temperature, and then solvent was removed under reduced pressure. Methanol (80 mL) was added, and the reaction mixture was stirred at room temperature. Solvent was again removed under reduced pressure, and the residue was added to 2N NaOH (100 mL) and EtOAc (mL). The mixture was stirred for 15 minutes, then the organic layer was separated, washed with saturated brine, dried over MgSO4, filtered and concentrated under reduced pressure to give 2.243 g of (S)-phosphoric acid mono-{2-[3-(2-chloro-phenyl)-6-(2,4-difluoro-phenoxy)-1H-pyrazolo[3,4-d]pyrimidin-4-ylamino]-1-methyl-ethyl}ester, MS (M+H)=512. This solid was converted to 2.182 g of the corresponding disodium salt by treatment with 15 Ml of 0.5M NaOCH3 in MeOH; MP>300° C., MS (M+H)=512.

reactant | (S)-phosphoric acid 2-[3-(2-chloro-phenyl)-6-(2,4-difluoro-phenoxy)-1H-pyrazolo[3,4-d]pyrimidin-4-ylamino]-1-methyl-ethyl ester dimethyl ester | 5.74 mmol, 3.1 g | COP(O[C@H](CNC1=C2C(=NC(=N1)OC1=C(C=C(C=C1)F)F)NN=C2C2=C(C=CC=C2)Cl)C)(OC)=O | C22H21ClF2N5O5P
reactant | trimethylsilyl bromide | 2.97 mL | C[Si](C)(C)Br | C3H9BrSi
solvent | methylene chloride | 35 mL | C(Cl)Cl | CH2Cl2
product | (S)-phosphoric acid mono-{2-[3-(2-chloro-phenyl)-6-(2,4-difluoro-phenoxy)-1H-pyrazolo[3,4-d]pyrimidin-4-ylamino]-1-methyl-ethyl}ester | 2.243 g | ClC1=C(C=CC=C1)C1=NNC2=NC(=NC(=C21)NC[C@H](C)OP(O)(O)=O)OC2=C(C=C(C=C2)F)F | C20H17ClF2N5O5P
